US08865748B2
Preparation of {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid ethyl ester (5):
To a 5 L round-bottomed flask was charged [(3-hydroxy-5-trifluoromethanesulfonyloxypyridine-2-carbonyl)-amino]-acetic acid ethyl ester sodium salt, 4, (310 g, 0.78 mol), 1,4-dioxane (3 L) and water (150 mL). The solution was subjected to a vacuum-nitrogen purge cycle, followed by the addition of potassium phosphate (50 g, 0.234 mol) and 3-fluorophenylboronic acid (163 g, 1.17 mol). After addition, the vacuum-nitrogen purge cycle was repeated once. 1,1-Bis(diphenyl-phosphino)ferrocenepalladium (II) chloride CH2Cl2 complex (72 g, 0.088 mol, 0.11 eq.) was then added. After another vacuum-nitrogen purge cycle, the reaction mixture was then heated to 75 to 85° C. The progress of the reaction was monitored by TLC. The reaction was complete after 14-16 hours. The reaction was cooled to 15 to 25° C. and concentrated by rotary evaporation at up to 45° C. bath temperature until solvent collection had ceased. The residue was treated with an aqueous solution of HCl (1M, 1.5 L) and ethyl acetate (1.5 L) and stirred for 30 minutes at room temperature. The layers were then separated. The organic layer was washed with water (1.5 L), brine (1.5 L), dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (hexane/ethylacetate/acetic acid: 3:1:0.01 by vol/vol) to afford 226 g (90% yield) of the desired product. MS (ESI+): m/z 319 (M+1); 1H NMR (300 MHz, CDCl3) δ 11.88 (s, 1H), 8.44 (s, 1H), 8.32-0.31 (d, J=1.5 Hz, 1H), 7.51-7.44 (m, 2H), 7.40-7.37 (m, 1H), 7.32-7.27 (m, 1H), 7.17-7.13 (t, J=6.6 Hz, 1H), 4.33-4.25 (m, 4H), 1.36-1.31 (t, J=7.2 Hz, 3H).

reactant | [(3-hydroxy-5-trifluoromethanesulfonyloxypyridine-2-carbonyl)-amino]-acetic acid ethyl ester sodium salt | [Na].C(C)OC(CNC(=O)C1=NC=C(C=C1O)OS(=O)(=O)C(F)(F)F)=O
reactant | 1,4-dioxane | 0.78 mol, 3 L, 310 g | O1CCOCC1 | C4H8O2
reactant | potassium phosphate | 0.234 mol, 50 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-fluorophenylboronic acid | 1.17 mol, 163 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
solvent | water | 150 mL | O | H2O
product | {[5-(3-fluorophenyl)-3-hydroxypyridine-2-carbonyl]amino}acetic acid ethyl ester | 226 g, 90% yield | C(C)OC(CNC(=O)C1=NC=C(C=C1O)C1=CC(=CC=C1)F)=O | C16H15FN2O4
